US04971986
(c) 4-Methyl-2-(2-phenylethenyl)-pyrimidine
9.02 ml of triethylamine and 1.365 g of Lindlar catalyst are added to 13.65 g (59.17 mmol) of 6-chloro-4-methyl-2-(2-phenylethenyl)-pyrimidine in 220 ml of absolute ethanol and hydrogenation is carried out at room temperature under normal pressure. When 1 equivalent of hydrogen has been absorbed, hydrogenation is terminated (after about 7.5 hours), and the reaction mixture is filtered with suction over Hyflo Super Cel® and concentrated in a rotary evaporator. Chromatography twice on silica gel with chloroform and then n-hexane/ethyl acetate 5-20% as eluants yields the pure title compound; m.p. 65°-67°.

reactant | triethylamine | 9.02 ml | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-4-methyl-2-(2-phenylethenyl)-pyrimidine | 59.17 mmol, 13.65 g | ClC1=CC(=NC(=N1)C=CC1=CC=CC=C1)C | C13H11ClN2
reactant | hydrogen | 1 equivalent | [H][H] | H2
catalyst | Lindlar catalyst | 1.365 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | ethanol | 220 ml | C(C)O | C2H6O
product | 4-Methyl-2-(2-phenylethenyl)-pyrimidine | CC1=NC(=NC=C1)C=CC1=CC=CC=C1 | C13H12N2
